US05464781
A mixture of ethyl 6-ethoxy-4-(4-methoxyanilino)-7-methyl-1,8-naphthyridine-3-carboxylate hydrochloride (4.76 g), glyoxylic acid (1.73 g) and glacial acetic acid (50 ml) was boiled under reflux for 24 hours. The mixture was cooled and a solid was collected by filtration. The filtrate was acidified with concentrated hydrochloric acid and filtered to give a second crop of solid. The two crops of solid were combined, stirred in water and the mixture basified with sodium bicarbonate. The pH of the mixture was adjusted to pH 6 with concentrated hydrochloric acid and the mixture was extracted with ethyl acetate and then with dichloromethane. The combined organic extracts were washed with water, dried and evaporated. The residue was triturated with ethyl acetate and then filtered to give 3-[3-ethoxy-6-ethoxycarbonyl-5-(4-methoxyanilino)-1,8-naphthyridin-2-yl]acrylic acid hemihydrochloride, m.p. 259°-261° C.

reactant | ethyl 6-ethoxy-4-(4-methoxyanilino)-7-methyl-1,8-naphthyridine-3-carboxylate hydrochloride | 4.76 g | Cl.C(C)OC=1C=C2C(=C(C=NC2=NC1C)C(=O)OCC)NC1=CC=C(C=C1)OC
reactant | glyoxylic acid | 1.73 g | C(C=O)(=O)O | C2H2O3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 3-[3-ethoxy-6-ethoxycarbonyl-5-(4-methoxyanilino)-1,8-naphthyridin-2-yl]acrylic acid hemihydrochloride | Cl.C(C)OC=1C(=NC2=NC=C(C(=C2C1)NC1=CC=C(C=C1)OC)C(=O)OCC)C=CC(=O)O.C(C)OC=1C(=NC2=NC=C(C(=C2C1)NC1=CC=C(C=C1)OC)C(=O)OCC)C=CC(=O)O | InChI=1S/2C23H23N3O6.ClH/c2*1-4-31-19-12-16-21(25-14-6-8-15(30-3)9-7-14)17(23(29)32-5-2)13-24-22(16)26-18(19)10-11-20(27)28;/h2*6-13H,4-5H2,1-3H3,(H,27,28)(H,24,25,26);1H
